US06319920B1
A solution of 1-methanesulfonylpiperidine-4-carbonyl chloride in dichloromethane (10 ml) was added to a suspension of (S)-N-[2-(2,3,-dihydrobenzofuran-5-yl)-1-methylethyl]-ethylamine hydrochloride (1.21 grams, 5 mmole) in dichloromethane (10 ml). The mixture was cooled to 0° C., and triethylamine (1.7 ml, 12.2 mmol) was added dropwise. When the addition was complete, the mixture was warmed to room temperature and stirred for about 1 hour. Saturated ammonium chloride was added (20 ml) and the separated organic layer was extracted once with dichloromethane (20 ml). The combined organic layers were washed with 1N hydrochloric acid (25 ml), saturated sodium bicarbonate (25 ml), dried over magnesium sulfate, and concentrated to give (S)-N-[2-(2,3,-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-methanesulfonylpiperidin-4-ylcarbonyl)amine as an off white foam (2.21 g).

reactant | 1-methanesulfonylpiperidine-4-carbonyl chloride | CS(=O)(=O)N1CCC(CC1)C(=O)Cl | C7H12ClNO3S
reactant | (S)-N-[2-(2,3,-dihydrobenzofuran-5-yl)-1-methylethyl]-ethylamine hydrochloride | 5 mmole, 1.21 grams | Cl.O1CCC2=C1C=CC(=C2)C[C@H](C)NCC
reactant | triethylamine | 12.2 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-N-[2-(2,3,-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-methanesulfonylpiperidin-4-ylcarbonyl)amine | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)C(=O)C2CCN(CC2)S(=O)(=O)C | C20H30N2O4S
